US08957069B2
5-[4-(4-methoxy-3-methylphenyl)piperazin-1-yl]-2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one
Sodium t-butoxide (999 mg, 10.4 mmol) was added to a mixture of toluene (18 mL) containing 2,2,4,6,7-pentamethyl-5-piperazin-1-yl-1-benzofuran-3(2H)-one (1.00 g, 3.47 mmol) synthesized in Reference Example 58, 4-bromo-2-methylanisole (2.09 g, 10.4 mmol), palladium acetate (39 mg, 0.174 mmol) and BINAP (325 mg, 0.522 mmol), and the mixture was stirred under heated reflux for 15 hours. After cooled to room temperature, the reaction solution was diluted with water and extracted using ethyl acetate. The organic layer was washed with saturated saline, and then dried using anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel chromatography (hexane-ethyl acetate 95:5 to 85:15). Crystallization was performed using ethyl acetate-hexane to give 320 mg of the title compound (yield: 23%).

reactant | Sodium t-butoxide | 10.4 mmol, 999 mg | CC(C)([O-])C.[Na+]
reactant | 2,2,4,6,7-pentamethyl-5-piperazin-1-yl-1-benzofuran-3(2H)-one | 3.47 mmol, 1.00 g | CC1(OC2=C(C1=O)C(=C(C(=C2C)C)N2CCNCC2)C)C | C17H24N2O2
reactant | 4-bromo-2-methylanisole | 10.4 mmol, 2.09 g | BrC1=CC(=C(C=C1)OC)C | C8H9BrO
reactant | BINAP | 0.522 mmol, 325 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | water | O | H2O
catalyst | palladium acetate | 0.174 mmol, 39 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[4-(4-methoxy-3-methylphenyl)piperazin-1-yl]-2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one | 320 mg, yield: 23% | COC1=C(C=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C)C | C25H32N2O3
